US04155904
Reflux 1.76 g. (0.005 moles) of 2-(2-bromoacetamido)-5-chlorobenzophenone, 2.80 g. (0.02 moles) of hexamethylenetetramine and 1.96 g. (0.020 moles) of ammonium bromide in 14 ml. of 85% (v/v) aqueous isopropyl alcohol for 2 hours. Pour the reaction mixture into water and extract with benzene. Dry the benzene solution over anhydrous sodium sulfate. Filter and evaporate to dryness. After recrystallization, 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one is obtained. In thin layer chromatography the product shows a single spot (silica gel GF plates, benzene-ethyl acetate-acetic acid=18:3:1), m.p. 213°-215° C.

reactant | 2-(2-bromoacetamido)-5-chlorobenzophenone | 0.005 moles | BrCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C15H11BrClNO2
reactant | hexamethylenetetramine | 0.02 moles | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium bromide | 0.020 moles | [Br-].[NH4+]
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11ClN2O
